US09055743B2
Thus, for example, IN 2003-MU444 describes the reaction of N-cyclohexyl-5-hydroxypentanamide with phosphorus pentachloride to give 5-chloro-N-cyclohexylpentaneimidoyl chloride. WO 2007/063702 provides the reaction of N-phenyl-3-(phenylsulphanyl)acrylamide with thionyl chloride and catalytical amounts of N,N-dimethylformamide to give N-phenyl-3-(phenylsulphanyl)prop-2-enimidoyl chloride.

reactant | N-phenyl-3-(phenylsulphanyl)acrylamide | C1(=CC=CC=C1)NC(C=CSC1=CC=CC=C1)=O | C15H13NOS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-phenyl-3-(phenylsulphanyl)prop-2-enimidoyl chloride | C1(=CC=CC=C1)N=C(C=CSC1=CC=CC=C1)Cl | C15H12ClNS
